US06706725B1
j) Dimethyl 4-[5-((E)-1,5-Diethyl-5-hydroxyhept-1-enyl)-3-thienylmethoxy]phthalate
1.7 g (2.9 mmol) of dimethyl 4-[5-((E)-1,5-diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienylmethoxy]phthalate are dissolved in 50 mL of anhydrous THF. 3.5 mL (3.5 mmol) of tetrabutylammonium fluoride (1.0 M in THF) are added and the medium is stirred at 60° C. for 3 hours. After the usual treatment and purification on silica gel (eluent: 70 heptane/30 ethyl acetate), the desired product is obtained in the form of a yellow oil (m=710 mg; Y=51%).

reactant | dimethyl 4-[5-((E)-1,5-diethyl-5-triethylsilanyloxyhept-1-enyl)-3-thienylmethoxy]phthalate | 2.9 mmol, 1.7 g | C(C)/C(=C\CCC(CC)(O[Si](CC)(CC)CC)CC)/C1=CC(=CS1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C32H48O6SSi
reactant | tetrabutylammonium fluoride | 3.5 mmol, 1.0 M, 3.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Dimethyl 4-[5-((E)-1,5-Diethyl-5-hydroxyhept-1-enyl)-3-thienylmethoxy]phthalate | C(C)/C(=C\CCC(CC)(O)CC)/C1=CC(=CS1)COC=1C=C(C(C(=O)OC)=CC1)C(=O)OC | C26H34O6S
